US03996374
A solution of 4.36 g. of 5-chloro-2-{3-[(methylsulfonyl)oxy]propyl}-3-phenylisoindole-1-carboxylic acid ethyl ester in 40 ml. of acetone is treated with 10 ml. of N-methylbutylamine and boiled at reflux for 5 hours. The mixture is then concentrated to dryness under reduced pressure and the residue partitioned between 50 ml. of water and 50 ml. of ether. The ethereal phase is treated with 30 ml. of 0.5-N hydrochloric acid and the mixture thoroughly shaken. After cooling in an ice-bath, the crystallized hydrochloride is removed by filtration under vacuum, dried and recrystallized from methylene chloride/ether, and there is obtained 2-[3-(butylmethylamino)propyl]-5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester hydrochloride having a melting point of 98°-101° C. (decomposition).

reactant | 5-chloro-2-{3-[(methylsulfonyl)oxy]propyl}-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCCOS(=O)(=O)C | C21H22ClNO5S
reactant | N-methylbutylamine | CNCCCC | C5H13N
solvent | acetone | CC(=O)C | C3H6O
product | 2-[3-(butylmethylamino)propyl]-5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCCN(C)CCCC | InChI=1S/C25H31ClN2O2.ClH/c1-4-6-15-27(3)16-10-17-28-23(19-11-8-7-9-12-19)22-18-20(26)13-14-21(22)24(28)25(29)30-5-2;/h7-9,11-14,18H,4-6,10,15-17H2,1-3H3;1H
